US05061717
4-(2-Phenylethylthio)benzaldehyde
A mixture of 2-phenylethylmercaptan (72.3 mmol, 10.0 g), 4-bromobenzaldehyde (79.6 mmol, 14.7 g) and potassium carbonate (116 mmol, 16 g) were stirred in dimethylformamide (100 ml) at 110° C. for 48 hours. The solution was cooled and diluted with water (200 ml). The aqueous was extracted with ether (3×200 ml) and the combined ether layers were dried (Na2SO4) and concentrated in vacuo. The residue was purified on silica gel using hexane:ethyl acetate (9:1) as eluant to afford 11.7 g (67%) of present title product as a yellow oil. 1H-NMR(CDCl3)delta(ppm): 3.1 (d of t), 7.2 (s), 7.3 (d), 7.7 (d), 9.9 (s). MS (m30 ) 242.

reactant | 2-phenylethylmercaptan | 72.3 mmol, 10.0 g | C1(=CC=CC=C1)CCS | C8H10S
reactant | 4-bromobenzaldehyde | 79.6 mmol, 14.7 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | potassium carbonate | 116 mmol, 16 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 4-(2-Phenylethylthio)benzaldehyde | 11.7 g, 67% | C1(=CC=CC=C1)CCSC1=CC=C(C=O)C=C1 | C15H14OS
